US05688798
A suspension of 1.85 g (0.0095 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride in 105 ml of dimethylformamide was treated with 250 g (0.00795 mol) of 6-(3,5-dichlorophenyl)-1,2,3,4-tetrahydro-isoquinoline hydrochloride and 3.66 ml (0.026 mol) of triethylamine and stirred at room temperature under argon for 65 hours. The mixture was completely freed from the solvents. The residue was partitioned between dichloromethane and water. 30 ml of a 1N aqueous sodium hydroxide solution were added dropwise thereto, the mixture was extracted and chromatographed over silica gel with ethyl acetate/isopropyl alcohol 9:1 as the eluent. Crystallization was then carried out, firstly from methanol/ethyl acetate/n-hexane and then from hot ethyl acetate. 1.21 g (38%) of 5-[6-(3,5-dichlorophenyl)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-2-methyl-pyrimidin-4-ylamine were obtained as white crystals; m.p. 205°-211°.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride | 0.0095 mol, 1.85 g | Cl.ClCC=1C(=NC(=NC1)C)N
reactant | 6-(3,5-dichlorophenyl)-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 0.00795 mol, 250 g | Cl.ClC=1C=C(C=C(C1)Cl)C=1C=C2CCNCC2=CC1
reactant | triethylamine | 0.026 mol, 3.66 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 105 ml | CN(C=O)C | C3H7NO
product | 5-[6-(3,5-dichlorophenyl)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-2-methyl-pyrimidin-4-ylamine | 1.21 g, 38% | ClC=1C=C(C=C(C1)Cl)C=1C=C2CCN(CC2=CC1)CC=1C(=NC(=NC1)C)N | C21H20Cl2N4
